US06656959B1
A mixture of (±)-6-(2-amino-1-methylethyl)4-(cyclopentyloxy)-3-pyridinol (0.037 mol) and NaHCO3 (0.0814 mol) in CH2Cl2 (200 ml) was stirred at 0-5° C. A solution of phenyl carbonochloridate (0.074 mol) in CH2Cl2(50 ml) was added dropwise and the resulting reaction mixture was stirred for one hour at RT. The reaction mixture was poured out into water and the layers were separated. The aqueous phase was extracted twice with CH2Cl2. The combined organic layers were dried, filtered and the solvent evaporated, yielding 18.2 g (±)-phenyl [2-[4-(cyclopentyloxy)-5-[(phenoxycarbonyl) oxy]-2-pyridinyl]propyl]carbamate (interm. 1).

reactant | (±)-6-(2-amino-1-methylethyl)4-(cyclopentyloxy)-3-pyridinol | 0.037 mol | NCC(C)C1=CC(=C(C=N1)O)OC1CCCC1 | C13H20N2O2
reactant | NaHCO3 | 0.0814 mol | C(=O)(O)[O-].[Na+]
reactant | phenyl carbonochloridate | 0.074 mol | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | water | O | H2O
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (±)-phenyl [2-[4-(cyclopentyloxy)-5-[(phenoxycarbonyl) oxy]-2-pyridinyl]propyl]carbamate | 18.2 g | C1(CCCC1)OC1=CC(=NC=C1OC(=O)OC1=CC=CC=C1)C(CNC(OC1=CC=CC=C1)=O)C | C27H28N2O6
